US09357776B2
Synthesis of N-[1-((6-Chloropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide
In 250 ml of toluene, 50.0 g (0.53 mol) of 2-aminopyridine was dissolved, and then 88.6 ml (0.64 mol) of trifluoroacetic anhydride was added dropwise over 30 minutes to the solution under cooling to 5° C. After the dropwise addition, the mixture was stirred at room temperature for 30 minutes, and 20 ml of toluene was distilled off under reduced pressure. To the reaction liquid, 250 ml of dimethylformamide was added, and then 88.2 g (0.64 mol) of potassium carbonate powder was added gradually to the reaction liquid under ice-cooling. After that, 87.0 g (0.54 mol) of 2-chloro-5-chloromethylpyridine was added, and toluene was gradually distilled off under a reduced pressure (50 to 60 hPa) at 50 to 60° C., followed by heating at 35 hPa. One hour later, 5.0 g (0.036 mol) of potassium carbonate powder was added, and water was removed at 50 to 60° C. and 35 hPa. Four hours later, the reaction liquid was added to 1.1 L of water of 50° C. The reaction vessel was washed with 150 ml of methanol, and the washing liquid was also added to the water. After the completion of the addition, the mixture was heated at 50° C. for 10 minutes, cooled gradually, and stirred at 15 to 20° C. for 30 minutes. Then, the crystals were filtered, and washed with 150 ml of water, and subsequently with 150 ml of toluene. The obtained crystals were dried under reduced pressure at 60° C. for 11 hours with a vacuum pump. Thus, 147.32 g of the target compound N-[1-((6-chloropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide was obtained (87.8%).

reactant | 2-aminopyridine | 0.53 mol, 50.0 g | NC1=NC=CC=C1 | C5H6N2
reactant | trifluoroacetic anhydride | 0.64 mol, 88.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium carbonate | 0.64 mol, 88.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-chloromethylpyridine | 0.54 mol, 87.0 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | potassium carbonate | 0.036 mol, 5.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 1.1 L | O | H2O
product | N-[1-((6-Chloropyridin-3-yl)methyl)pyridin-2(1H)-ylidene]-2,2,2-trifluoroacetamide | 147.32 g | ClC1=CC=C(C=N1)CN1C(C=CC=C1)=NC(C(F)(F)F)=O | C13H9ClF3N3O
